US07064143B1
N-(4-Phenylbutyl)4-hydroxy-1-methyl-1H-indole-2-carboxamide
From 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid and 4-phenylbutylamine the title compound was prepared by a method analogous to that described in Example 11. MS ES (M++H)=323.

reactant | 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C17H15NO3
reactant | 4-phenylbutylamine | C1(=CC=CC=C1)CCCCN | C10H15N
product | N-(4-Phenylbutyl)4-hydroxy-1-methyl-1H-indole-2-carboxamide | C1(=CC=CC=C1)CCCCNC(=O)C=1N(C2=CC=CC(=C2C1)O)C | C20H22N2O2
